US08350028B2
1-Isopropyl-3-{2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-6-yl}-urea
The title compound, MS: m/e=339.3 (M+H+), was prepared in accordance with the general method of example 14 from 2-chloro-6-nitro-quinoline, 5-methyl-2-furanmethanamine and isopropyl isocyanate.

reactant | 2-chloro-6-nitro-quinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | 1-Isopropyl-3-{2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-6-yl}-urea | C(C)(C)NC(=O)NC=1C=C2C=CC(=NC2=CC1)NCC=1OC(=CC1)C | C19H22N4O2
